US04968340
Preparation of 2-(4,6-dimethylpyrimidin-2-yl)oxy-3,3dimethylbutyric acid (Compound No.12)
1.5 g of methyl 2-(4,6-dimethylpyrimidin-2-yl)oxy3,3-dimethylbutyrate was dissolved in 10 ml of methanol, and 10 ml of an aqueous solution containing 0.5 g of potassium hydroxide was added thereto. The mixture was stirred at room temperature for 12 hours and then shaked with 210 ml of toluene and 30 ml of water in a separatory funnel. The aqueous layer was acidified with an oxalic acid aqueous solution and extracted with 100 ml of ethyl ether. The organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure to obtain 1.2 g of the desired product.

reactant | methyl 2-(4,6-dimethylpyrimidin-2-yl)oxy3,3-dimethylbutyrate | 1.5 g | CC1=NC(=NC(=C1)C)OC(C(=O)OC)C(C)(C)C | C13H20N2O3
reactant | potassium hydroxide | 0.5 g | [OH-].[K+]
reactant | toluene | 210 ml | C1(=CC=CC=C1)C | C7H8
reactant | oxalic acid | C(C(=O)O)(=O)O | C2H2O4
solvent | methanol | 10 ml | CO | CH4O
solvent | water | 30 ml | O | H2O
product | 2-(4,6-dimethylpyrimidin-2-yl)oxy-3,3dimethylbutyric acid | 1.2 g | CC1=NC(=NC(=C1)C)OC(C(=O)O)C(C)(C)C | C12H18N2O3
